US08895313B2
2-(2-Methoxy-4-nitrophenyl)benzothiazole
A thoroughly mixed paste of 2-aminobenzenethiol (0.63 g, 5.07 mmol) and 2-methoxy-4-nitrobenzoic acid (1.0 g, 5.07 mmol) in trimethylsilylpolyphosphate (5 ml) was stirred and heated at 150° C. under an atmosphere of argon for 1.5 h. On cooling to room temperature the reaction mixture was a solid mass to which was added DCM (35 ml) and Et2O (50 ml). The solid was broken up and collected by filtration, then recrystallised from AcOH and dried under high vacuum for 18 h to give the title compound (0.90 g, 62%) as a yellow solid.

reactant | 2-aminobenzenethiol | 5.07 mmol, 0.63 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2-methoxy-4-nitrobenzoic acid | 5.07 mmol, 1.0 g | COC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO5
reactant | DCM | 35 ml | C(Cl)Cl | CH2Cl2
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | 2-(2-Methoxy-4-nitrophenyl)benzothiazole | 0.90 g, 62% | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC2=C(N1)C=CC=C2 | C14H10N2O3S
